US04876354
2-Chlorophenyl-2-(2-hydroxyadamantyl)-1-(1,2,4-triazolyl)-methane
66 ml (100 mmol) of n-butyllithium in hexane were added dropwise, at -78° C., to a solution of 9.7 g (50 mmol) of 1-(2-chlorobenzyl)-1,2,4-triazole and 6 g (50 mmol) of N,N,N',N'-tetramethylethylenediamine in 100 ml of tetrahydrofuran, stirring was carried out for a further half an hour at this temperature and 7.5 g (50 mmol) of adamantanone in tetrahydrofuran were then added so that -70° C. was not exceeded. The reaction mixture was kept at -78° C. for a further 2 hours and then allowed to warm up to room temperature. After working up with water/methylene chloride, 17.4 g of crude product were obtained, and this product gave 10.0 g of pure triazole derivative of melting point 178° C. after recrystallization from ethyl acetate.

reactant | n-butyllithium | 100 mmol, 66 ml | C(CCC)[Li]
reactant | 1-(2-chlorobenzyl)-1,2,4-triazole | 50 mmol, 9.7 g | ClC1=C(CN2N=CN=C2)C=CC=C1 | C9H8ClN3
reactant | N,N,N',N'-tetramethylethylenediamine | 50 mmol, 6 g | CN(CCN(C)C)C | C6H16N2
reactant | adamantanone | 50 mmol, 7.5 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | water methylene chloride | O.C(Cl)Cl
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-Chlorophenyl-2-(2-hydroxyadamantyl)-1-(1,2,4-triazolyl)-methane | 10.0 g | ClC1=C(C=CC=C1)CC=1N(N=CN1)C12C(C3CC(CC(C1)C3)C2)O | C19H22ClN3O
